US06153645
To a solution of 1,3-indandione (43.8 g) and piperidine (44 mg) in dry benzene (500 ml) was added benzaldhyde (31.8 g). The mixture was heated to reflux and the water generated was removed by Dean-Stark trap. After 24 hours, the mixture was evaporated to dryness. The residue was recrystallized from ethanol (200 ml) to give 2-benzylidene-1,3-indandione as a yellow solid (50.6 g).

reactant | 1,3-indandione | 43.8 g | C1(CC(C2=CC=CC=C12)=O)=O | C9H6O2
reactant | benzaldhyde | 31.8 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
catalyst | piperidine | 44 mg | N1CCCCC1 | C5H11N
product | 2-benzylidene-1,3-indandione | 50.6 g | C(C1=CC=CC=C1)=C1C(C2=CC=CC=C2C1=O)=O | C16H10O2
